US07001897B2
p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (4.47 g, 5.88 mmol) (obtained as described in Example 64(1)) in a mixture of tetrahydrofuran (220 ml) was added to acetic acid (0.40 ml, 7.06 mmol) and 1M tetrabutylammonium fluoride in tetrahydrofuran solution (7.06 ml, 7.06 mmol) and the mixture was stirred at room temperature for 1 day. After checking the completion of the reaction, ethyl acetate and saturated aqueous sodium hydrogencarbonate solution were added to the reaction mixture. The resulting mixture was shaken in a separatory funnel and the ethyl acetate layer was separated, washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (eluant: ethyl acetate→ethyl acetate:methanol (10:1)) to afford p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[(2-hydroxyethyl)-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (1.79 g, yield 47%) as a pale yellow solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-[2-(t-butyldimethylsilyloxy)ethyl]-N-isopropyl-carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 5.88 mmol, 4.47 g | [Si](C)(C)(C(C)(C)C)OCCN(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(C)C | C35H49N5O8S2Si
reactant | acetic acid | 7.06 mmol, 0.40 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.06 mmol, 7.06 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-nitrobenzyl (1R,5S,6S)-2-(1-{4-[(2-hydroxyethyl)-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.79 g, yield 47% | OCCN(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(C)C | C29H35N5O8S2
